US08258158B2
Piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (2.293 g) and 2-chloro-4,6-dimethoxy-1,3,5-triazine (1.84 g) in acetonitrile (50 ml) were treated under ice cooling and an argon atmosphere with N-methyl-morpholine (3.034 g) and the mixture was stirred for 2 h at 0° C. Then 4-isopropyl-phenylamine (1.42 g) in acetonitrile was added dropwise and the reaction mixture was stirred at RT for 48 h. The reaction mixture was partitioned between ethyl acetate and aqueous 1M HCl, the layers were separated and the aqueous layer washed with 2M aqueous KHCO3 then dried over Na2SO4. The solvent was evaporated off. The residue was then triturated with AcOEt/diethyl ether/heptane to give the desired 4-(4-isopropyl-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (1.68 g) as white solid. MS (ESI): 347.28 (MH+)

reactant | Piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 2.293 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 1.84 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methyl-morpholine | 3.034 g | CN1CCOCC1 | C5H11NO
reactant | 4-isopropyl-phenylamine | 1.42 g | C(C)(C)C1=CC=C(C=C1)N | C9H13N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(4-isopropyl-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.68 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=CC=C(C=C1)C(C)C)=O | C20H30N2O3
